US04415580
A mixture containing 25 g of 2,4-hexanedione, 100 ml of ethanol and 25 ml of concentrated aqueous ammonium hydroxide was allowed to stand room temperature overnight and then concentrated on a rotary evaporator to give 21 g, as a pale yellow oil, a mixture containing 4-amino-3-hexen-2-one and 5-amino-4-hexen-3-one. To the oil was added 18.5 g of methyl 2-propynoate and the mixture heated in a oil bath at about 100° whereupon a vigorous exothermic reaction took place. After the reaction had subsided, the reaction mixture was heated in an oil bath at 160°-170° C. for 2 hours and then concentrated on a rotary evaporator to give a gummy material. The latter was crystallized from isopropyl alcohol-ether to yield 64 g of 6-methyl-5-(n-propanoyl)-2(1H)-pyridinone, m.p. 173°-175° C., whose structure was confirmed by its MMR spectrum. No other product was isolated from the mother liquor of the above reaction mixture; however, in another run, Example D-4 hereinbelow, a second product, namely 6-ethyl-5-acetyl-2(1H)-pyridinone was isolated.

reactant | 2,4-hexanedione | 25 g | CC(CC(CC)=O)=O | C6H10O2
reactant | ammonium hydroxide | 25 ml | [OH-].[NH4+]
reactant | 4-amino-3-hexen-2-one | NC(=CC(C)=O)CC | C6H11NO
reactant | 5-amino-4-hexen-3-one | NC(=CC(CC)=O)C | C6H11NO
reactant | methyl 2-propynoate | 18.5 g | C(C#C)(=O)OC | C4H4O2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-methyl-5-(n-propanoyl)-2(1H)-pyridinone | 64 g | CC1=C(C=CC(N1)=O)C(CC)=O | C9H11NO2
